US05714470
f) Preparation of Tetrahydro-4-(methoxymethylene)-2H-pyran
To a stirred suspension of (methoxymethyl)triphenylphosphonium chloride (24.82 g, 72.41 mmol) in THF (250 mL) cooled in an ice-water bath was added n-BuLi (24.76 mL or 2.42M solution in hexane, 59.93 mmol). The reaction mixture was allowed to warm to room temperature for 1 h and then recooled in an ice-water bath and a solution of tetrahydro-4H-pyran-4-one (5.00 g, 49.94 mmol) in THF (10 mL) added. After 20 min the reaction mixture was concentrated to an oily reside, the residue was triturated with Et2O (150 mL), and the supernatant was decanted. This process was repeated (6×75 mL), and the combined supernatants were concentrated to give crude title compound (7.3 g) as an orange oil. Flash chromatography (10×18 cm) eluting with a gradient (5-10%) of EtOAc/hexane gave the title compound (2.25 g, 35%) as a volatile, colorless oil. TLC: Rf 0.13 (5:95 EtOAc:hexane). 1H NMR: δ 5.85 (s, 1H, vinyl), 3.69-3.61 (m, 4H, CH2OCH2), 3.56 (s, 3H, OCH3), 2.32 and 2.06 (pr t, 4H, 2×CH2).

reactant | (methoxymethyl)triphenylphosphonium chloride | 72.41 mmol, 24.82 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-BuLi | 59.93 mmol, 2.42M, 24.76 mL | [Li]CCCC
reactant | tetrahydro-4H-pyran-4-one | 49.94 mmol, 5.00 g | O1CCC(CC1)=O | C5H8O2
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | Tetrahydro-4-(methoxymethylene)-2H-pyran | 2.25 g, 35% | COC=C1CCOCC1 | C7H12O2
